US06500835B2
Synthesis of 4-[(7-hydroxy-2,4(1H,3H)-quinazolinedion-3-yl)sulfonyl]anthranilic acid (Compound 30)
620 mg (1.53 mmol) of 3-benzyloxycarbonylamino-4-t-butoxycarbonylbenzenesulfonamide and 550 mg (1.51 mmol) of benzyl 4-hydroxy-2-N-phenoxycarbonylanthranilate were treated in the same way as in Preparation Example 17 to obtain 25 mg (yield 4%: 4 steps) of the above-identified compound. Properties: colorless crystal, Melting point: >200° C. (decomposition), PMR (δ ppm, DMSO-d6): 6.48 (1H, s), 6.61 (1H, d), 7.14 (1H, d), 7.51 (1H, s), 7.70 (1H, d), 7.90 (1H, d), 10.80 (1H, s), 11.39 (1H, s).

reactant | 3-benzyloxycarbonylamino-4-t-butoxycarbonylbenzenesulfonamide | 1.53 mmol, 620 mg | C(C1=CC=CC=C1)OC(=O)NC=1C=C(C=CC1C(=O)OC(C)(C)C)S(=O)(=O)N | C19H22N2O6S
reactant | benzyl 4-hydroxy-2-N-phenoxycarbonylanthranilate | 1.51 mmol, 550 mg | OC=1C=C(C(C(=O)OCC2=CC=CC=C2)=CC1)NC(=O)OC1=CC=CC=C1 | C21H17NO5
product | 4-[(7-hydroxy-2,4(1H,3H)-quinazolinedion-3-yl)sulfonyl]anthranilic acid | yield 4% | OC1=CC=C2C(N(C(NC2=C1)=O)S(=O)(=O)C=1C=C(C(C(=O)O)=CC1)N)=O | C15H11N3O7S
